US06815455B1
Synthesis of 1-(4-(2-benzimidazolylthio)valeroyl)-4-methylpiperidine (Compound 12)
0.15 g of 2-mercaptobenzimidazole and 0.26 g of 1-(4-bromovaleroyl)-4-methylpiperidin were suspended in acetonitrile, and the suspension was added with 0.17 ml of triethylamine and refluxed for 7 hours. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with water and dried over sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (methanol:methylene chloride=1:10) to obtain 0.07 g of the title compound as oil (yield: 21%).

reactant | 2-mercaptobenzimidazole | 0.15 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 1-(4-bromovaleroyl)-4-methylpiperidin | 0.26 g | BrC(CCC(=O)N1CCC(CC1)C)C | C11H20BrNO
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(4-(2-benzimidazolylthio)valeroyl)-4-methylpiperidine | 0.07 g, yield: 21% | N1=C(NC2=C1C=CC=C2)SC(CCC(=O)N2CCC(CC2)C)C | C18H25N3OS
